US04025538
A nitration mixture, consisting of 16.1 ml. of H2SO4 (d 1.84) and 1.9 ml. of HNO3 (d 1.5), is heated to 55° C. and 3.5 grams of 5-chloro-2-(trifluoromethyl)toluene is slowly added. The mixture is heated for one hour at 55° C. followed by one hour at 110° C. The reaction mixture is cooled and poured onto ice to give 5-chloro-2-(trifluoromethyl)-4,5-dinitrotoluene as a cream-colored solid. The product is crystallized from cyclohexane to give 3.6 grams of cream-colored crystals, melting point 81° C. to 82° C. 1.8 Grams of 5-chloro-2-(trifluoromethyl)-4,6-dinitrotoluene is refluxed for 15 minutes with 3 ml. of mono-sec-butylamine and 30 ml. of benzene, cooled, filtered, washed with water until neutral, dried and vacuum stripped to give 1.5 grams of N-sec-butyl-3-methyl-2,6-dinitro-4-(trifluoromethyl)aniline as a yellow solid, melting point 38° C. to 39° C.

reactant | 5-chloro-2-(trifluoromethyl)-4,6-dinitrotoluene | ClC=1C(=CC(=C(C1[N+](=O)[O-])C)C(F)(F)F)[N+](=O)[O-] | C8H4ClF3N2O4
reactant | mono-sec-butylamine | C(C)(CC)N | C4H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-sec-butyl-3-methyl-2,6-dinitro-4-(trifluoromethyl)aniline | 1.5 grams | C(C)(CC)NC1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)C)[N+](=O)[O-] | C12H14F3N3O4
